US08957080B2
Into a 100 mL, 3-necked round-bottom flask purged and maintained in an inert atmosphere of nitrogen, was placed a solution of tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate (300 mg, 0.68 mmol, 1.00 equiv) in 1,4-dioxane/water (60/15 mL), 2-[4-(2,6-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (290 mg, 0.87 mmol, 1.3 equiv), sodium carbonate (180 mg, 1.68 mmol, 2.5 equiv), and tetrakis(triphenylphosphane)palladium (40 mg, 0.03 mmol, 0.05 equiv). The resulting solution was stirred for 12 h at 90° C. in an oil bath and then concentrated under vacuum. The resulting solution was diluted with 50 mL of dichloromethane, washed with water and brine. The organics were dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (20/1) to give 280 mg (79%) of tert-butyl (2R)-2-([4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate as a white solid.

reactant | tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 0.68 mmol, 300 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2I)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-[4-(2,6-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.87 mmol, 290 mg, 1.3 equiv | FC1=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C(=CC=C1)F | C18H19BF2O3
reactant | sodium carbonate | 1.68 mmol, 180 mg, 2.5 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane water | 15 mL | O1CCOCC1.O
product | tert-butyl (2R)-2-([4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 280 mg, 79% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2F)F)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C27H28F2N6O3
